US05292732
3-Phenylfuran (4.2 g) was dissolved in 100 ml of absolute tetrahydrofuran under argon and treated portionwise with 5.2 g of N-bromosuccinimide while stirring. After stirring at room temperature for 2 hours the solution was treated with a further 0.2 g of N-bromosuccinimide and stirred for a further 1 hour. Subsequently, the solution was concentrated to about 20 ml, treated with 100 ml of pentane and the separated succinimide was filtered off. The filtrate was washed twice with 100 ml of 1% sodium hydrogen carbonate solution each time and subsequently dried with Na2SO4 with the addition of a small amount of calcium carbonate and hydroquinone. The mixture was filtered, concentrated to 10 ml and made up to 100 ml with absolute tetrahydrofuran. This solution, without further purification, was cooled to -78° C. under argon, treated with 8.7 ml of N,N,N',N'-tetramethylethylenediamine and 37 ml of a 1.6N solution of n-butyllithium in hexane while stirring and stirred at -78° C. for 1 hour. Then, 3.1 ml of methyliodide were added dropwise between -50° C. and -30° C. and the solution was stirred at -20° C. for 30 minutes. Working-up was by the addition of 100 ml of saturated ammonium chloride solution and 40 ml of water. The mixture was extracted three times with 100 ml of ethyl acetate each time, the organic phases were combined, dried with MgSO4, filtered and concentrated. The residue, 4.6 g of brown oil, was chromatographed on 100 g of aluminium oxide (neutral, III) with hexane as the eluent. 4.0 g of yellowish oil were isolated and were dissolved in 80 ml of dry acetonitrile under argon and stirred at room temperature for 4 hours with 7.9 g of the mixed anhydride from acetic acid and p-toluenesulphonic acid. Subsequently, the mixture was stirred for 30 minutes with 150 ml of saturated sodium hydrogen carbonate solution and 150 ml of diethyl ether. The phases were separated and the aqueous phase was extracted twice with a further 100 ml of diethyl ether. The organic phases were combined, washed twice with 50 ml of water each time, dried over MgSO4 and freed from solvent. The residue, 4.2 of brown oil, was chromatographed on 200 g of silica gel with diethyl ether/hexane (1:5) as the eluent. 1.9 g (18%) of 2-acetyl-5-methyl-4-phenylfuran were obtained. MS: (m/e)=200 (M+).

reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogen carbonate | 150 ml | C(O)([O-])=O.[Na+]
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
reactant | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 2-acetyl-5-methyl-4-phenylfuran | 1.9 g, 18% | C(C)(=O)C=1OC(=C(C1)C1=CC=CC=C1)C | C13H12O2
